US06770667B1
To a suspension of 9H-fluorene-1-carboxylic acid (79 mg) and 3-(4-methylimidazol-1-yl)aniline (65 mg) in dichloromethane (2 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (101 mg) and 4-dimethylaminopyridine (23 mg), and the mire was stirred for 24 hours. The mix e was diluted with dichloromethane, washed with water and brine. The mixture was dried over magnesium sulfate and evaporated under reduced pressure. The residue was triturated with methanol, and the insoluble material was collected by filtration and dried to give N-[3-(4-methylimidazol-1-yl)-phenyl]-9H-fluorene-1-carboxamide (40 mg, 29.2%).

reactant | 9H-fluorene-1-carboxylic acid | 79 mg | C1(=CC=CC=2C3=CC=CC=C3CC12)C(=O)O | C14H10O2
reactant | 3-(4-methylimidazol-1-yl)aniline | 65 mg | CC=1N=CN(C1)C=1C=C(N)C=CC1 | C10H11N3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 101 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 23 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[3-(4-methylimidazol-1-yl)-phenyl]-9H-fluorene-1-carboxamide | 40 mg, 29.2% | CC=1N=CN(C1)C=1C=C(C=CC1)NC(=O)C1=CC=CC=2C3=CC=CC=C3CC12 | C24H19N3O
